US06271238B1
Example 27; 2-(5-t-Butyloxycarbonylamino-6-oxo-2-phenyl-1,6-dihydropyrimidine-1-yl)-N-{2,3-dioxo-6-(2-oxo-1,2-dihydropyridine-1-yl)-1-phenylmethyl}hexylacetamide (Compound No. 72)
2-(5-t-Butyloxycarbonylamino-6-oxo-2-phenyl-1,6-dihydropyrimidine-1-yl)-N-{2-hydroxy-3-oxo-6-(2-oxo-1,2-dihydropyridine-1-yl)-1-phenylmethyl}hexylacetamide (115 mg, 0.18 mmol) was dissolved in dimethylsulfoxide (2 ml), under argon atmosphere, and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (103 mg, 0.54 mmol) and pyridinium trifluoroacetate (17 mg, 0.1 mmol) were added to it, and the mixture was stirred for 3.5 hours. The reaction solution was diluted with ethyl acetate and washed successively with distilled water and saturated saline. The organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (chloroform/methanol=30/1), and thereafter hexane was added to it to precipitate solid. The precipitated solid was collected by filtration whereby the title compound (96 mg, 83% yield) was obtained.

reactant | 2-(5-t-Butyloxycarbonylamino-6-oxo-2-phenyl-1,6-dihydropyrimidine-1-yl)-N-{2-hydroxy-3-oxo-6-(2-oxo-1,2-dihydropyridine-1-yl)-1-phenylmethyl}hexylacetamide | 0.18 mmol, 115 mg | C(C)(C)(C)OC(=O)NC1=CN=C(N(C1=O)C(CCC(=O)NCC=1C(C(C=CC1N1C(C=CC=C1)=O)=O)O)CCCC)C1=CC=CC=C1 | C35H41N5O7
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.54 mmol, 103 mg | Cl.CN(CCCN=C=NCC)C
reactant | pyridinium trifluoroacetate | 0.1 mmol, 17 mg | FC(C(=O)[O-])(F)F.[NH+]1=CC=CC=C1
solvent | dimethylsulfoxide | 2 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(5-t-Butyloxycarbonylamino-6-oxo-2-phenyl-1,6-dihydropyrimidine-1-yl)-N-{2,3-dioxo-6-(2-oxo-1,2-dihydropyridine-1-yl)-1-phenylmethyl}hexylacetamide | 96 mg, 83% yield | C(C)(C)(C)OC(=O)NC1=CN=C(N(C1=O)C(CCC(=O)NCC=1C(C(C=CC1N1C(C=CC=C1)=O)=O)=O)CCCC)C1=CC=CC=C1 | C35H39N5O7
